US03953497
2,4,6-Triiodo-5-methoxyacetamido-N-methylisophthalamoyl chloride
A solution of 2,4,6-triiodo-5-methoxyacetamido-N-methylisophthalamic acid in N,N-dimethylacetamide is treated with an excess of thionyl chloride. After the reaction, the excess thionyl chloride is removed by evaporation and the product is suitable for use as intermediate in situ.

reactant | 2,4,6-triiodo-5-methoxyacetamido-N-methylisophthalamic acid | IC1=C(C(=O)O)C(=C(C(=C1C(=O)NC)I)NC(COC)=O)I | C12H11I3N2O5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 2,4,6-Triiodo-5-methoxyacetamido-N-methylisophthalamoyl chloride | IC1=C(C(=O)Cl)C(=C(C(=C1C(=O)NC)I)NC(COC)=O)I | C12H10ClI3N2O4
